US07205318B2
Cis-3-amino-4-benzyloxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester (450 mg, 1.288 mmol), from Part F of Example 112, was added to a cooled mixture (0° C.) of 5-chloro-thiophen-carboxylic chloride (233 mg, 1.288 mmol), Et3N (0.54 mL, 3.864 mmol), and CH2Cl2 (10 mL). The mixture stirred overnight at rt. EtOAc (70 mL) was added. The mixture was washed with brine, and the organic phase dried over MgSO4 and concentrated. The crude product was purified by silica gel flash column chromatography (30% MeOH/EtOAc) to yield cis-4-benzyloxycarbonylamino-3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (236 mg). LC-MS: (M-100): 394.

reactant | Cis-3-amino-4-benzyloxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester | 1.288 mmol, 450 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)N | C18H27N3O4
reactant | 5-chloro-thiophen-carboxylic chloride | 1.288 mmol, 233 mg | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
reactant | Et3N | 3.864 mmol, 0.54 mL | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | cis-4-benzyloxycarbonylamino-3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 236 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)NC(=O)C=1SC(=CC1)Cl | C23H28ClN3O5S
